US06545009B1
In the same manner as in Example 1, methyl 4-carbamoylbenzoate was reacted with 3-trifluoromethylphenacyl bromide to obtain methyl 4-[4-(3-trifluoromethylphenyl)-2-oxazolyl]benzoate. The product was recrystallized from ethanol. Yield: 21%. Pale yellow prisms. Melting Point: 134 to 135° C.

reactant | methyl 4-carbamoylbenzoate | C(N)(=O)C1=CC=C(C(=O)OC)C=C1 | C9H9NO3
reactant | 3-trifluoromethylphenacyl bromide | FC(C=1C=C(C(CBr)=O)C=CC1)(F)F | C9H6BrF3O
product | methyl 4-[4-(3-trifluoromethylphenyl)-2-oxazolyl]benzoate | Yield: 21% | FC(C=1C=C(C=CC1)C=1N=C(OC1)C1=CC=C(C(=O)OC)C=C1)(F)F | C18H12F3NO3
